US05852193
4-(2-piperidinoethoxy) benzoic acid hydrochloride
Into a 500 ml round bottom flask is placed 23.38 g (197 mmol) of thionyl chloride and 140 ml of methylene chloride. The resulting solution is cooled with an ice bath as 21.91 g (170 mmol) of 1-piperidinoethanol in 30 ml of methylene chloride is added over 30 minutes. After the addition is complete, the ice bath is removed and the mixture is stirred for about 12 hours. The reaction mixture is concentrated on a rotary evaporator to yield a solid residue. Amyl acetate (225 ml), potassium carbonate (34.4 g, 249 mmol), and methyl 4-hydroxybenzoate (14.1 g, 92 mmol) are added to the residue. The resulting slurry is heated to 135° C. for 5 hours. The reaction mixture is cooled to room temperature and washed twice with 100 ml of water. The organic layer is extracted with 53 ml of 8N hydrochloric acid. The aqueous layer is heated at gentle reflux for 4 hours. The resulting slurry is cooled to 50° C. and 50 ml of acetone is added. The slurry is cooled to 0°-5° C. and stirred for 1 hour. The product is filtered, washed with cold acetone, and dried at 50° C. in vacuo to yield 17.9 g of product, (67%). 1H NMR. Compares to reference solution: HPLC potency 97.9%, TRS 1.50%.

reactant | thionyl chloride | 197 mmol, 23.38 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-piperidinoethanol | 170 mmol, 21.91 g | N1(CCCCC1)C(C)O | C7H15NO
reactant | Amyl acetate | 225 ml | C(C)(=O)OCCCCC | C7H14O2
reactant | potassium carbonate | 249 mmol, 34.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-hydroxybenzoate | 92 mmol, 14.1 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 140 ml | C(Cl)Cl | CH2Cl2
product | 4-(2-piperidinoethoxy) benzoic acid hydrochloride | 17.9 g, 67% | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)O)C=C1 | InChI=1S/C14H19NO3.ClH/c16-14(17)12-4-6-13(7-5-12)18-11-10-15-8-2-1-3-9-15;/h4-7H,1-3,8-11H2,(H,16,17);1H
